US06437146B1
To a solution of {3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}carbamic acid tert-butyl ester (2.34 g, 4.62 mmol) in methylene chloride (25 ml) was added trifluoroacetic acid (7 ml) at 5° C. and the mixture was stirred at room temperature for 1.5 hour. After evaporation, the residue was dissolved in EtOAc, and saturated sodium hydrogencarbonate solution was added thereto under ice-cooling. The mixture was extracted with EtOAc, washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 3:1 elution) to give 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-y]methyl}phenylamine (1.74 g, 93%).

reactant | {3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}carbamic acid tert-butyl ester | 4.62 mmol, 2.34 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H34N2O3
reactant | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-y]methyl}phenylamine | 1.74 g, 93% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C=CC1)N | C28H26N2O
